US08541457B2
Synthesis of Ethyl 2-Benzamido-4-phenylthiazole-5-carboxylate
To a stirred cold mixture of ethyl 2-amino-4-phenylthiazole-5-carboxylate (1.24 g, 5.00 mmol), 4-dimethylaminopyridine (0.10 g, 16 mol %) and pyridine (4.0 mL, 10 equiv) in dichloromethane (20.0 mL) was added benzoyl chloride (0.70 g, 5.00 mmol) in dichloromethane (3 mL). The mixture was stirred at ambient temperature for 2 h, then washed with 5% hydrochloric acid solution, water, and dried over anhydrous sodium sulfate. Removal of the solvent afforded the title compound in 92% yield (1.62 g); 1H NMR (CDCl3, 300 MHz) δ 10.10 (s, 1H), 8.15 (d, J=7.2 Hz, 2H), 7.85-7.45 (m, 8H), 4.24 (q, J=5.9 Hz, 2H), 1.19 (t, J=5.9 Hz, 3H); MS (ES+) m/z 353.1 (M+1).

reactant | ethyl 2-amino-4-phenylthiazole-5-carboxylate | 5.00 mmol, 1.24 g | NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C12H12N2O2S
reactant | pyridine | 4.0 mL, 10 equiv | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 5.00 mmol, 0.70 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 0.10 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | Ethyl 2-Benzamido-4-phenylthiazole-5-carboxylate | 92% yield | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C19H16N2O3S
